US08349851B2
A solution of 2-amino-4-fluorobenzamide (750 mg, 4.40 mmol), diethyl oxalate (20 mL), and AcOH (8 mL) was stirred at 140° C. for 16 h. The solid was collected by filtration and dried under reduced pressure to afford ethyl 7-fluoro-4-hydroxyquinazoline-2-carboxylate as a solid (235 mg, 22%). 1H NMR (300 MHz, DMSO-d6) δ 1.36 (t, J=7.08 Hz, 2H), 4.39 (q, J=7.08 Hz, 2H), 7.52 (m, 1H), 7.67 (m, 1H), 8.25 (m, 1H), 11.97 (br s, 1H), 12.77 (br s, 1H).

reactant | 2-amino-4-fluorobenzamide | 4.40 mmol, 750 mg | NC1=C(C(=O)N)C=CC(=C1)F | C7H7FN2O
reactant | diethyl oxalate | 20 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | AcOH | 8 mL | CC(=O)O | C2H4O2
product | ethyl 7-fluoro-4-hydroxyquinazoline-2-carboxylate | 235 mg, 22% | FC1=CC=C2C(=NC(=NC2=C1)C(=O)OCC)O | C11H9FN2O3
